US08629270B2
2-Bromo-1-(5-fluorothiophen-2-yl)ethanone
To a stirred clear amber solution of 1-(5-fluorothiophen-2-yl)ethanone (9.70 g, 67.3 mmol) in dichloromethane (224 mL) at 0° C. under nitrogen is added diisopropylethylamine (14.7 mL, 84.1 mmol) followed by the drop wise addition of trimethylsilyl trifluoromethanesulfonate (13.8 mL, 74.0 mmol) over 10 minutes while maintaining the internal temperature below 5° C. The resulting solution is stirred at 0° C. for 90 minutes. N-bromosuccinimide (13.17 g, 74.0 mmol) is added in one portion and the resulting orange solution is stirred at 0° C. for 1 hour. Dilute aqueous sodium bicarbonate (200 mL of a 1:1 water/saturated aqueous sodium bicarbonate solution) and dichloromethane (50 mL) are added. The phases are separated and the aqueous phase is re-extracted with dichloromethane (150 mL). The combined organic extracts are dried over sodium sulfate, filtered, and concentrated under reduced pressure to give a red oily/amorphous residue. The residue is diluted with hexanes (50 mL) and dichloromethane (5 mL) and filtered to remove solids. The solids are washed with a solution of hexanes/dichloromethane (˜50 mL, 7:3). The combined filtrates are concentrated under reduced pressure and the residue is purified by silica gel chromatography eluting with hexanes/dichloromethane (two-step gradient from 70:30 to 60:40 to 50:50) to give the title compound (13.33 g, 89%). 1H NMR (CDCl3) δ 4.27 (s, 2H), 6.58 (dd, J=1.3, 4.4 Hz, 1H), 7.52 (dd, J=1.5, 4.2 Hz, 1H).

reactant | 1-(5-fluorothiophen-2-yl)ethanone | 67.3 mmol, 9.70 g | FC1=CC=C(S1)C(C)=O | C6H5FOS
reactant | diisopropylethylamine | 84.1 mmol, 14.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trimethylsilyl trifluoromethanesulfonate | 74.0 mmol, 13.8 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | N-bromosuccinimide | 74.0 mmol, 13.17 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 224 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 200 mL | O | H2O
product | 2-Bromo-1-(5-fluorothiophen-2-yl)ethanone | 13.33 g, 89% | BrCC(=O)C=1SC(=CC1)F | C6H4BrFOS
